US06376557B1
Capillisil is available from Exsymol S.A.M. of Monaco and is a 20% solution of dimethylsilanediol salicylate in butylene glycol with triethanolamine. It is obtained by mild hydrolysis of dimethylsilyl salicylate.

reactant | dimethylsilanediol salicylate | C(C=1C(O)=CC=CC1)(=O)O.C[Si](O)(O)C
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
solvent | butylene glycol | C(CCCO)O | C4H10O2
product | dimethylsilyl salicylate | C(C=1C(O)=CC=CC1)(=O)O[SiH](C)C | C9H12O3Si
